US05663164
5.55 g of tert.-butyl dichloroacetate in 30 ml of tetrahydrofuran were stirred while 4.64 g of 4-chlorobenzaldehyde were added, and after cooling to -20° C., 30 ml of an N solution of potassium tert.-butylate in tetrahydrofuran were added. The temperature was allowed to rise to 20° C. and after 20 minutes, 50 ml of ether and 40 ml of water saturated with sodium chloride were added, with stirring for 5 minutes. The decanted organic phase was washed with water saturated with sodium chloride, then dried and concentrated to dryness under reduced pressure. The residue was chromatographed on silica and eluted with methylene chloride to obtain 1.90 g of 1,1-dimethylethyl 2-chloro-3-(4-chlorophenyl)-oxirane carboxylate.

reactant | tert.-butyl dichloroacetate | 5.55 g | ClC(C(=O)OC(C)(C)C)Cl | C6H10Cl2O2
reactant | 4-chlorobenzaldehyde | 4.64 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | 1,1-dimethylethyl 2-chloro-3-(4-chlorophenyl)-oxirane carboxylate | 1.90 g | ClC1(OC1C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C | C13H14Cl2O3
